US04025505
The mixture of 2.3 g of N-(4-nitro-2-chlorophenyl)-4-chlorophthalimide, 220 ml of ethyl acetate and 1 g of Raney nickel is hydrogenated at room temperature and 3.1 atm. pressure until the hydrogen uptake ceases. It is filtered, evaporated and the residue recrystallized from methanol, to yield the N-(4-amino-2-chlorophenyl)-4-chlorophthalimide melting at 198°-201°.

reactant | N-(4-nitro-2-chlorophenyl)-4-chlorophthalimide | 2.3 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)Cl | C14H6Cl2N2O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1 g | [Ni] | Ni
solvent | ethyl acetate | 220 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-2-chlorophenyl)-4-chlorophthalimide | NC1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)Cl | C14H8Cl2N2O2
